US08044041B2
4-Aminomethyl-N-(2-pyrrolidin-1-yl-ethyl)-benzamide dihydrochloride
To a solution of [4-(2-Pyrrolidin-1-yl-ethylcarbamoyl)-benzyl]-carbamic acid tert-butyl ester (400 mg, 1.15 mmol) in MeOH (30 mL) was added 6M HCl in IPA (25 mL). The mixture was stirred at ambient temperature for 5 h. After this time a precipitate had formed and was filtered and dried to yield the title compound. m/z (M+1) 248.34.

reactant | [4-(2-Pyrrolidin-1-yl-ethylcarbamoyl)-benzyl]-carbamic acid tert-butyl ester | 1.15 mmol, 400 mg | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C(NCCN1CCCC1)=O)=O | C19H29N3O3
reactant | HCl | 6M | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
solvent | IPA | 25 mL | CC(C)O | C3H8O
product | 4-Aminomethyl-N-(2-pyrrolidin-1-yl-ethyl)-benzamide dihydrochloride | Cl.Cl.NCC1=CC=C(C(=O)NCCN2CCCC2)C=C1 | InChI=1S/C14H21N3O.2ClH/c15-11-12-3-5-13(6-4-12)14(18)16-7-10-17-8-1-2-9-17;;/h3-6H,1-2,7-11,15H2,(H,16,18);2*1H
